US05095022
4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine
A mixture of 65.6 g of ethyl 4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinecarboxylate, 32.0 g of potassium hydroxide and 250 ml of n-butanol was refluxed for 2 hrs and concentrated. Water was added to the residue and extracted with toluene. The toluene layer was washed with water, dried and concentrated to give 53.2 g of pale yellow solid, which was recrystallized from methanol to give 47.9 g of colorless needles, mp 145°-147° C.

reactant | ethyl 4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinecarboxylate | 65.6 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(=O)OCC | C23H23NO2
reactant | potassium hydroxide | 32.0 g | [OH-].[K+]
solvent | n-butanol | 250 ml | C(CCC)O | C4H10O
product | 4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | 53.2 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCNCC3 | C20H19N
